US06080870
Step A: 4-(2'-Cyanophenyl)benzoic acid methyl ester.
To a solution of 2-bromobenzonitrile (1.00 g, 5.494 mmol), in THF (16.5 mL) at -100° C. was added t-butyl lithium (6.46 mL, of a 1.7M solution in pentane, 10.98 mmol. After 5 minutes zinc chloride(5.494 mL, of a 1M solution in THF, 5.494 mmol) was added. The reaction was stirred for 10 minutes at -78° C. and then allowed to warm to 0° C. and stirred for 1 hour. This solution was added via cannula to a solution of methyl-4-iodobenzoate (1.44 g, 5.494 mmol) and bis(triphenylphosphine) Nickel II chloride (0.359 g, 0.549 mmol) in THF (12 mL). The reaction stirred for 1 hour at 0° C. and then at ambient temperature for a further 16 hours. Saturated ammonium hydroxide solution (5 mL) was added and the mixture stirred until homogenous, extracted with EtOAc and the organic extracts washed with saturated brine, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed (Silica gel, 50% CH2Cl2 to 50%) EtOAc in hexanes) to afford the title compound.

reactant | 2-bromobenzonitrile | 5.494 mmol, 1.00 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | t-butyl lithium | C(C)(C)(C)[Li]
reactant | methyl-4-iodobenzoate | 5.494 mmol, 1.44 g | COC(C1=CC=C(C=C1)I)=O | C8H7IO2
reactant | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | THF | 16.5 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | bis(triphenylphosphine) Nickel | 0.549 mmol, 0.359 g | [Ni].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(2'-Cyanophenyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)=O | C15H11NO2
